US06071935
A. 2-Acetyl-6,6-dimethyl-bicyclo[3.1.1]heptane-3-carbonitrile
3-(3-Ethyl-2,2-dimethyl-cyclobutyl)-but-3-en-2-one (568 mg, 3.46 mmol) was dissolved in benzene (20 ml) under an atmosphere of dry N2. To the solution was added a 1.0 M solution of diethylaluminum cyanide (5.0 ml) in toluene. After stirring at ambient temperature for 30 minutes, a 10% aqueous solution of potassium sodium tartrate (20 ml) was added to the reaction. After stirring at ambient temperature for 30 minutes, the reaction was partitioned between CH2Cl2 and 0.1 N aqueous sodium hydroxide (NaOH). The CH2Cl2 layer was washed with brine, dried over MgSO4, filtered and concentrated under vacuum to give 551 mg of the titled compound as an oil: 1H NMR (CDCl3)δ 3.99 (dt, J=4.3, 11.0 Hz, 1H), 3.14 (dd, J=3.1, 4.6 Hz, 1H), 2.62 (m, 1H), 2.53 (m, 1H), 2.41 (m, 1H), 2.22 (m, 1H), 2.17 (s, 3H), 2.01 (m, 1H), 1.44 (d, J=10.6 Hz, 1H), 1.22 (s, 3H), 0.64 (s, 3H).

reactant | 3-(3-Ethyl-2,2-dimethyl-cyclobutyl)-but-3-en-2-one | 3.46 mmol, 568 mg | C(C)C1C(C(C1)C(C(C)=O)=C)(C)C | C12H20O
reactant | diethylaluminum cyanide | 5.0 ml | [C-]#N.C(C)[Al+]CC
reactant | potassium sodium tartrate | 20 ml | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | benzene | 20 ml | C1=CC=CC=C1 | C6H6
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-Acetyl-6,6-dimethyl-bicyclo[3.1.1]heptane-3-carbonitrile | 551 mg | C(C)(=O)C1C2C(C(CC1C#N)C2)(C)C | C12H17NO
